US04476127
5 g of the crystals of 4-diethylamino-6-mercapto-2-methyl-5-nitropyrimidine and 7.0 g of metal tin were mixed well, and 50 ml of concentrated hydrochloric acid was slowly added to the mixture under cooling. After the addition, the reaction mixture was stirred at room temperature for 3 hours. Then 3N solution of sodium hydroxide was added to the mixture, while cooling with ice, and the pH of the mixture was adjusted to 8-9 to obtain an oily substance. The oily substance was extracted with 200 ml of ethyl acetate, and the organic layer was dried over magnesium sulphate anhydride. Then the solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixture of chloroform and n-hexane to obtain crystals of 5-amino-4-diethylamino-6-mercapto-2-methylpyrimidine (3.9 g).

reactant | 4-diethylamino-6-mercapto-2-methyl-5-nitropyrimidine | C(C)N(C1=NC(=NC(=C1[N+](=O)[O-])S)C)CC | C9H14N4O2S
reactant | tin | [Sn] | Sn
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 5-amino-4-diethylamino-6-mercapto-2-methylpyrimidine | 3.9 g | NC=1C(=NC(=NC1S)C)N(CC)CC | C9H16N4S
